US04294960
Phosphorus trichloride (210 mg.) was added to a solution of n-hexanoyloxymethyl 7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate-1-oxide (syn-isomer: 570 mg.) in dry dimethylformamide (10 ml.) at -30° C., and stirred at -20° to -30° C. for 50 minutes. 10% aqueous solution (50 ml.) of sodium chloride was added to the resultant solution, adjusted to pH 8.0 with a saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue (560 mg.) was purified with column chromatography on silica gel (20 g.) eluent:ethyl acetate), and the resultant residue (180 mg.) was pulverized with n-hexane (10 ml.) and diethyl ether (5 ml.) to give n-hexanoyloxymethyl 7-[2-(2-amino-4-thiazolyl)- 2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate (syn-isomer: 150 mg.).

reactant | Phosphorus trichloride | 210 mg | P(Cl)(Cl)Cl | Cl3P
reactant | n-hexanoyloxymethyl 7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate-1-oxide | 570 mg | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)Cl)C(=O)OCOC(CCCCC)=O)C1=O)=NOC | C20H24ClN5O8S2
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | n-hexanoyloxymethyl 7-[2-(2-amino-4-thiazolyl)- 2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate | 150 mg | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCOC(CCCCC)=O)C1=O)=NOC | C20H24ClN5O7S2
